* NMOS: Drain, Gate, Source, Body (Body = Source if not mentioned)
* PMOS: Drain, Gate, Source, Body (Body = Source if not mentioned)

* Voltage Sources
VDD 1 0 DC
VSS 11 0 DC
 
* Current Sources
IBIAS_N3 3 0 DC 

* PMOS Transistors
MU1 2 4 1 1 PMOS
MU2 6 5 2 2 PMOS

* Other MOSFETs (Assuming the indicated type by schematic for MB62 and MB62', MB61, MB65, MB63)
MB62 3 0 3 3 MOS
MB62' 3 0 3 3 MOS
MB61 3 0 3 3 MOS
MB65 4 0 3 3 MOS
MB63 8 0 3 3 MOS

* NMOS Transistors
MB66 6 7 11 11 NMOS
MB64 10 9 11 11 NMOS

* End of Netlist